US05968930
α-Chloro-N-[4-(5H-pyrrolo[2,1-c][1,4)benzodiazepin-10(11H)-ylcarbonyl)phenyl]benzeneacetamide
To a solution of 0.61 g of 10,11-dihydro-10(4-aminobenzoyl)-5H-pyrrolo][2,1-c][1,4]benzodiazepine in 8 ml of methylene chloride is added 0.30 g of triethylamine followed by 0.47 g of (±)-2-chloro-2-phenylacetyl chloride in 2 ml of methylene chloride. The mixture is stirred at room temperature for 1 hour and then diluted with 10 ml of 50% NaHCO3. The methylene chloride is evaporated and the residue is extracted with ethyl acetate. The separated organic layer is washed with saturated NaHCO3 and brine and then dried with Na2SO4 followed by filtering through a pad of hydrous magnesium silicate. The filtrate is evaporated to a residue which is stirred with ether-hexane to give 0.98 g of pink solid. MS(CI): 456(M+H).

reactant | [1,4]benzodiazepine | N1C=CN=CC2=C1C=CC=C2 | C9H8N2
reactant | triethylamine | 0.30 g | C(C)N(CC)CC | C6H15N
reactant | (±)-2-chloro-2-phenylacetyl chloride | 0.47 g | ClC(C(=O)Cl)C1=CC=CC=C1 | C8H6Cl2O
reactant | NaHCO3 | 10 ml | C(=O)(O)[O-].[Na+]
solvent | methylene chloride | 8 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | α-Chloro-N-[4-(5H-pyrrolo[2,1-c][1,4)benzodiazepin-10(11H)-ylcarbonyl)phenyl]benzeneacetamide | 0.98 g | ClC(C(=O)NC1=CC=C(C=C1)C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2)C2=CC=CC=C2 | C27H22ClN3O2
